US04851526
N-Ethyl-N-[(4-nitrophenoxy)butyl]heptanamine
In a manner similar to Preparation 2, react 4-[ethyl(heptyl)amino]butanol with 4-fluoronitrobenzene to obtain the title compound.

reactant | 4-[ethyl(heptyl)amino]butanol | C(C)N(CCCCO)CCCCCCC | C13H29NO
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
product | N-Ethyl-N-[(4-nitrophenoxy)butyl]heptanamine | C(C)N(CCCCCCC)CCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C19H32N2O3
